US06221865B1
{4-[(3-sulfonylmethylpyridyl)amino]-2-phenylbenzoyl}methionine methyl ester
A mixture of 3-chlorosulfonylmethylpyridine hydrochloride (1.0 equivalent) and (4-amino-2-phenylbenzoyl)methionine methyl ester (1.0 equivalent) in dichloromethane is treated with triethylamine (2.2 equivalents). When judged complete by TLC analysis, the reaction is diluted with ethyl acetate, and then is washed with pH 4 water, saturated NaHCO3, and brine. The mixture is dried and concentrated to give the crude title compound which is purified by chromatography on silica gel.

reactant | 3-chlorosulfonylmethylpyridine hydrochloride | 1.0 equivalent | Cl.ClS(=O)(=O)CC=1C=NC=CC1
reactant | (4-amino-2-phenylbenzoyl)methionine methyl ester | 1.0 equivalent | COC([C@@H](NC(C1=C(C=C(C=C1)N)C1=CC=CC=C1)=O)CCSC)=O | C19H22N2O3S
reactant | triethylamine | 2.2 equivalents | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | {4-[(3-sulfonylmethylpyridyl)amino]-2-phenylbenzoyl}methionine methyl ester | COC([C@@H](NC(C1=C(C=C(C=C1)NC1=NC=CC=C1C=S(=O)=O)C1=CC=CC=C1)=O)CCSC)=O | C25H25N3O5S2
